US04025505
The mixture of 3.0 g of N-(4-nitro-2-methylmercaptomethylphenyl)-4-chlorophthalimide, 1.5 g of Raney nickel and 250 ml of ethyl acetate is hydrogenated at room temperature and atmospheric pressure until the hydrogen uptake ceases. It is filtered, the filtrate evaporated and the residue recrystallized from benzene, to yield the N-(4-amino-2-methylmercaptomethylphenyl)-4-chlorophthalimide melting at 134°-137°. Analogously the N-(4-amino-2-methylsulfonylmethylphenyl)-4-chlorophthalimide is prepared, m.p. 253°-257° (acetonitrile); as well as the N-(4-amino-2-hydroxymethylphenyl)-4-chlorophthalimide, m.p. 228°-230° (ethyl acetatediethyl ether).

reactant | N-(4-nitro-2-methylmercaptomethylphenyl)-4-chlorophthalimide | 3.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CSC | C16H11ClN2O4S
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1.5 g | [Ni] | Ni
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-2-methylmercaptomethylphenyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O)CSC | C16H13ClN2O2S
